US05318966
A solution of 15.0 g (0.036 mol) of rac-N-[5-(cis-1,2,3a, 4,5,9b-hexahydro-6-methoxy-3H-benzo[e]indol-3-yl)pentyl]phthalimide in 120 ml of methylene chloride was treated dropwise with a solution of 17.3 ml (0.179 mol) of boron tribromide in 60 ml of methylene chloride, whereupon the mixture was stirred at 0° for 2 hours. A solution of 20.4 g (0.51 mol) of sodium hydroxide in 70 ml of water was added dropwise while cooling with an ice bath. The mixture was poured into water, whereupon aqueous sodium hydrogen carbonate solution was added until a pH of 8 had been reached. The mixture was extracted with methylene chloride, the extracts were dried over sodium sulphate and the solvent was distilled off in a vacuum. Chromatography over silica gel with ethyl acetate yielded 3.1 g (21%) of rac-N-[5-(cis-1,2,3a,4,5,9b-hexahydro-6-hydroxy-3H-benzo[e]indol-3-yl)pentyl]phthalimide as a brown oil. A small sample was converted with ethanolic HCl into the hydrochloride, m.p. 246°-248°.

reactant | rac-N-[5-(cis-1,2,3a, 4,5,9b-hexahydro-6-methoxy-3H-benzo[e]indol-3-yl)pentyl]phthalimide | 0.036 mol, 15.0 g | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCN2C(C=1C(C2=O)=CC=CC1)=O | C26H30N2O3
reactant | boron tribromide | 0.179 mol, 17.3 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 0.51 mol, 20.4 g | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | 70 ml | O | H2O
product | rac-N-[5-(cis-1,2,3a,4,5,9b-hexahydro-6-hydroxy-3H-benzo[e]indol-3-yl)pentyl]phthalimide | 3.1 g, 21% | OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCN2C(C=1C(C2=O)=CC=CC1)=O | C25H28N2O3
